US05589492
3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-N,N-dimethylpropanamide
Triethylamine (0.4 mL) was added to an ice-cooled solution of 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]propanoic acid (1.00 g) in dry tetrahydrofuran (20 mL). The mixture was stirred at 0° C. during the addition of freshly distilled methyl chloroformate (0.25 mL), and stirring continued at this temperature for 45 minutes prior to the addition of a solution of dimethylamine in industrial methylated spirit (30% w/v; 20 mL). The mixture was stirred at room temperature for 20 hrs then evaporated. The residue was suspended in water (100 mL). Ethyl acetate (200 mL) and brine (100 mL) were added, the layers were separated and the aqueous layer extracted with ethyl acetate (2×200 mL). The combined ethyl acetate solutions were washed with brine (500 mL), dried (MgSO4) and evaporated. The resulting gum was chromatographed on silica gel with 1% methanol in dichloromethane as eluent to afford a gum which crystallised on standing to afford the title compound, mp 103°-5° C.

reactant | Triethylamine | 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]propanoic acid | 1.00 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CCC(=O)O | C19H20N2O4
reactant | methyl chloroformate | 0.25 mL | ClC(=O)OC | C2H3ClO2
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-[4-[2-[N-(2-Benzoxazolyl)-N-methylamino]ethoxy]phenyl]-N,N-dimethylpropanamide | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CCC(=O)N(C)C | C21H25N3O3
